US06124317
A mixture of of 1-[2-(4-amino-3-nitrophenoxy)ethyl]-2-benzylpiperidine (705 mg, 1.99 mmol) and Raney Ni (about 200 mg) in EtOH (15 mL) was shaken under H2 (35-25 parr) for 4 h, then filtered. The filtrate was evapoated, and the residure was purified by chromatography over silica gel (CHCl3 --MeOH, 3:2) to give 2-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine (650 mg, 98%) as a brown viscous oil. 1H NMR (CDCl3): 1.22-1.32 (m, 2H), 1.49-1.52 (m, 3H), 2.49-2.56 (m, 2H), 2.756 (bs, 2H, NH2), 2.96-3.06 (m, 2H), 3.13-3.24 (m, 2H), 3.520 (bs, 2H, NH2), 4.02-4.12 (m, 2H), 6.285 (dd, 1H, J=9; 3), 6.350 (d, 1H, J=3), 6.640 (d, 1H, J=9), 7.16-7.30 (m, 5H).

reactant | 1-[2-(4-amino-3-nitrophenoxy)ethyl]-2-benzylpiperidine | 1.99 mmol, 705 mg | NC1=C(C=C(OCCN2C(CCCC2)CC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C20H25N3O3
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Ni | about 200 mg | [Ni] | Ni
product | 2-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine | 650 mg, 98% | C(C1=CC=CC=C1)C1N(CCCC1)CCOC1=CC(=C(C=C1)N)N | C20H27N3O
